US04024255
1,4-Dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide
1,4-Dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid (4 g) and N,N'-carbonyldiimidazole (3.5 g) in dimethylformamide (40 ml) were heated at 80° for 6 hours. 5-Amino-1H-tetrazole (2.5 g) was added and the mixture was stirred and heated at 80° for 1.5 hours. The solid was collected and dissolved in aqueous sodium hydroxide. The solution was acidified with glacial acetic acid and the solid was collected and dried. It had m.p. 344°-345.5°, (47%)

reactant | 1,4-Dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid | 4 g | CC1=CC=C2C(C(=CNC2=N1)C(=O)O)=O | C10H8N2O3
reactant | 5-Amino-1H-tetrazole | 2.5 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1,4-Dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide | CC1=CC=C2C(C(=CNC2=N1)C(=O)NC1=NN=NN1)=O | C11H9N7O2
